US06921763B2
1-[1-(1H-2-Imidazolylmethyl)-4-piperidyl]-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine (127 mg, 0.299 mmol), tert-butyl N-[2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]carbamate (115 mg, 0.329 mmol), palladium tetrakistriphenyphosphine (21 mg, 0.018 mmol) and sodium carbonate (76 mg, 0.718 mmol) were mixed with ethylene glycol dimethyl ether (3 mL) and water (1.5 mL). The reaction mixture was heated at reflux overnight. Organic solvent was removed under reduced pressure and the aqueous layer was extracted with dichloromethane. The combined organic layer was washed with water then brine, dried over MgSO4, filtered and evaporated. The residue was purified by flash column chromatography using dichloromethane/methanol (95:5) as mobile phase to give tert-butyl N-(4-{4-amino-1-[1-(1H-2-imidazolylmethyl)-4-piperidyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxyphenyl)carbamate (64 mg, 41%). 1H NMR (DMSO-d6) δ 1.48 (m, 9H), 1.87 (m, 2H), 2.23 (m, 4H), 2.94 (m, 2H), 3.56 (s, 2H), 3.88 (s, 3H), 4.66 (m, 1H), 6.92(s, 2H), 7.21 (m, 2H), 7.90 (d, J=8.14, 1H), 8.04 (s, 1H), 8.22 (s, 1H).

reactant | 1-[1-(1H-2-Imidazolylmethyl)-4-piperidyl]-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.299 mmol, 127 mg | N1C(=NC=C1)CN1CCC(CC1)N1N=C(C=2C1=NC=NC2N)I | C14H17IN8
reactant | tert-butyl N-[2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]carbamate | 0.329 mmol, 115 mg | COC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)NC(OC(C)(C)C)=O | C18H28BNO5
reactant | sodium carbonate | 0.718 mmol, 76 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethylene glycol dimethyl ether | 3 mL | COCCOC | C4H10O2
solvent | water | 1.5 mL | O | H2O
product | tert-butyl N-(4-{4-amino-1-[1-(1H-2-imidazolylmethyl)-4-piperidyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxyphenyl)carbamate | 64 mg, 41% | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(OC(C)(C)C)=O)OC)C2CCN(CC2)CC=2NC=CN2 | C26H33N9O3
